US08865704B2
trans-4-[(2-Amino-benzoylamino)-methyl]-cyclohexanecarboxylic acid methyl ester
To a solution of trans-4-Aminomethyl-cyclohexanecarboxylic acid methyl ester (21.7 g, 127 mmol) in CH3CN (500 mL), K2CO3 (35 g, 254 mmol) and isatoic anhydride (20.7 g, 127 mmol) were added. The reaction was stirred at 70° C. overnight. The mixture was concentrated under reduced pressure and the residue was washed with 200 mL of H2O and the solid obtained was filtered. The titled compound (31.1 g, quantitative yield) was obtained as a white solid.

reactant | trans-4-Aminomethyl-cyclohexanecarboxylic acid methyl ester | 127 mmol, 21.7 g | COC(=O)[C@@H]1CC[C@H](CC1)CN | C9H17NO2
reactant | K2CO3 | 254 mmol, 35 g | C(=O)([O-])[O-].[K+].[K+]
reactant | isatoic anhydride | 127 mmol, 20.7 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | CH3CN | 500 mL | CC#N | C2H3N
product | trans-4-[(2-Amino-benzoylamino)-methyl]-cyclohexanecarboxylic acid methyl ester | 31.1 g, quantitative yield | COC(=O)[C@@H]1CC[C@H](CC1)CNC(C1=C(C=CC=C1)N)=O | C16H22N2O3
